US05292767
(2R,4R)-N-(5-aminopentyl)-2-mercaptomethyl-4-tetrahydrothiophenecarboxamide hydrochloride (compound No. 21-1)
(2R,4R)-N-(5-tert-butoxycarbonylaminopentyl)-2-mercaptomethyl-4-tetrahydrothiophenecarboxamide (compound No. 20-4, 35 mg) was added to 2.3N ethyl acetate solution of hydrogen chloride (3 ml) and the mixture was stirred for 2 hours at room temperature. The mixture was concentrated in vacuo and the oily residue was purified by a silica gel column chromatography to give 11.3 mg (39%) of the titled compound (compound No. 21-1).

reactant | (2R,4R)-N-(5-tert-butoxycarbonylaminopentyl)-2-mercaptomethyl-4-tetrahydrothiophenecarboxamide | 35 mg | C(C)(C)(C)OC(=O)NCCCCCNC(=O)[C@H]1C[C@@H](SC1)CS | C16H30N2O3S2
reactant | hydrogen chloride | 3 ml | Cl | ClH
solvent | ethyl acetate | 2.3N | C(C)(=O)OCC | C4H8O2
product | (2R,4R)-N-(5-aminopentyl)-2-mercaptomethyl-4-tetrahydrothiophenecarboxamide hydrochloride | 11.3 mg, 39% | Cl.NCCCCCNC(=O)[C@H]1C[C@@H](SC1)CS | InChI=1S/C11H22N2OS2.ClH/c12-4-2-1-3-5-13-11(14)9-6-10(7-15)16-8-9;/h9-10,15H,1-8,12H2,(H,13,14);1H/t9-,10+;/m0./s1
